US04041048
EXAMPLE 8: 2-Butyl-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine
A mixture of 3.27 g. (0.02 mole) of 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine, 5.5 g. (0.04 mole) of butyl bromide and 3.18 g. (0.03 mole) of sodium carbonate was heated under stirring for 3 hours at 90° C. and for an additional four hours at 120° C. After cooling the reaction mixture was taken up with diethyl ether, and the inorganic residue filtered off. The filtrate was then evaporated in vacuo and the residue rectified by collecting the fraction boiling at 90° C./0.1 mm Hg. Yield 2.3 g. of 2-butyl-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine.

reactant | 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | 0.02 mole | CC1NOCCC2=C1C=CC=C2 | C10H13NO
reactant | butyl bromide | 0.04 mole | C(CCC)Br | C4H9Br
reactant | sodium carbonate | 0.03 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Butyl-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | C(CCC)N1C(C2=C(CCO1)C=CC=C2)C | C14H21NO
